US05560814
Preparation of 2-(2-carboxy-2-propyl)thiouronium chloride
Example 1 was repeated with thiourea and 2-chloro-2-methylpropionic acid, affording the title compound in a yield of 74%.

reactant | thiourea | NC(=S)N | CH4N2S
reactant | 2-chloro-2-methylpropionic acid | ClC(C(=O)O)(C)C | C4H7ClO2
product | 2-(2-carboxy-2-propyl)thiouronium chloride | yield of 74% | [Cl-].C(=O)(O)C(C)(C)SC(=[NH2+])N | InChI=1S/C5H10N2O2S.ClH/c1-5(2,3(8)9)10-4(6)7;/h1-2H3,(H3,6,7)(H,8,9);1H
